US08957080B2
Into a 100-mL round-bottom flask, was placed a solution of tert-butyl (2R)-2-([4-amino-3-[4-(3-fluorophenoxy)phenyl]-1H-pyrazolo[3,4-d]pyrimidin-1-yl]methyl)pyrrolidine-1-carboxylate (270 mg, 0.54 mmol, 1.00 equiv) in dichloromethane (50 mL). This was followed by the addition of trifluoroacetic acid (10 mL) dropwise with stirring over 10 min. The resulting solution was stirred for 3 h at 25° C. The resulting mixture was concentrated under vacuum to give 0.216 g (crude) of 3-[4-(3-fluorophenoxy)phenyl]-1-[(2R)-pyrrolidin-2-ylmethyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine as brown oil.

reactant | tert-butyl (2R)-2-([4-amino-3-[4-(3-fluorophenoxy)phenyl]-1H-pyrazolo[3,4-d]pyrimidin-1-yl]methyl)pyrrolidine-1-carboxylate | 0.54 mmol, 270 mg, 1.00 equiv | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)OC2=CC(=CC=C2)F)C[C@@H]2N(CCC2)C(=O)OC(C)(C)C | C27H29FN6O3
reactant | trifluoroacetic acid | 10 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 3-[4-(3-fluorophenoxy)phenyl]-1-[(2R)-pyrrolidin-2-ylmethyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.216 g | FC=1C=C(OC2=CC=C(C=C2)C2=NN(C3=NC=NC(=C32)N)C[C@@H]3NCCC3)C=CC1 | C22H21FN6O
